US04133885
To a stirred solution of 2-amino-,5,7-diethyl-1,8-naphthyridine (7.0 g., 0.035 mole) in 45 ml. of trifluoroacetic acid is added sodium nitrite (2.66 g., 0.0385 mole) in small portions over 1 hour at -5° C. The mixture is stirred at -5° C. for 2 hours and for an additional hour at room temperature. The reaction mixture is poured into 300 g. of crushed ice and is made alkaline with a slight excess of concentrated ammonium hydroxide. A yellow solid separates and is filtered and washed with a little ice water. Recrystallization from ethyl acetate affords 5,7-diethyl-1,8-naphthyridin-2-(1H)-one melting at 159°-161° C.

reactant | 5,7-diethyl-1,8-naphthyridine | 0.035 mole, 7.0 g | C(C)C1=C2C=CC=NC2=NC(=C1)CC | C12H14N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium nitrite | 0.0385 mole, 2.66 g | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5,7-diethyl-1,8-naphthyridin-2-(1H)-one | C(C)C1=C2C=CC(NC2=NC(=C1)CC)=O | C12H14N2O
